US04697036
Preparation of the 2-ethyl-2-[4-(2-methylpropyl)-phenyl]-1,3-dioxolane-4(R),5(R)-dicarboxylic acid dimethylester.
A mixture of 1-[4-(2-methylpropyl)-phenyl]-propan-1-one (110 g; 0.58 moles), dimethyl ester of L(+) tartaric acid (206 g; 1.16 moles) and trimethyl orthoformate (122.7 g; 1.16 moles) is gradually heated up to complete solution (50° C. The solution is added with methanesulphonic acid (3.9 g; 0.04 moles).

reactant | 1-[4-(2-methylpropyl)-phenyl]-propan-1-one | 0.58 moles, 110 g | CC(CC1=CC=C(C=C1)C(CC)=O)C | C13H18O
reactant | L(+) tartaric acid | 1.16 moles, 206 g | C([C@H](O)[C@@H](O)C(=O)O)(=O)O | C4H6O6
reactant | trimethyl orthoformate | 1.16 moles, 122.7 g | C(OC)(OC)OC | C4H10O3
reactant | methanesulphonic acid | 0.04 moles, 3.9 g | CS(=O)(=O)O | CH4O3S
product | 2-ethyl-2-[4-(2-methylpropyl)-phenyl]-1,3-dioxolane-4(R),5(R)-dicarboxylic acid dimethylester | COC(=O)[C@@H]1OC(O[C@H]1C(=O)OC)(C1=CC=C(C=C1)CC(C)C)CC | C19H26O6
